US05037822
Stage A: 5-(4-Diethylaminobenzenesulphonyl)valeric acid
2.5 g of 4-diethylaminobenzenesulphonyl chloride are added to a solution comprising 1.17 g of 5-aminovaleric acid and 1.2 g of sodium hydroxide dissolved in 12 cm3 of water, followed by the addition of 12 cm3 of tetrahydrofuran in order to obtain a solution. The mixture is kept stirring for 2 hours at room temperature, the tetrahydrofuran is evaporated off, the reaction medium is acidified using acetic acid and extracted with chloroform, the organic phase is dried and the solvents are removed under reduced pressure. 2.2 g of expected product are obtained. M.p. 106°-108° C. After crystallization in an isopropanol/water mixture (1:1), the product, melting point 109°-110° C., is obtained.

reactant | 4-diethylaminobenzenesulphonyl chloride | 2.5 g | C(C)N(C1=CC=C(C=C1)S(=O)(=O)Cl)CC | C10H14ClNO2S
reactant | 5-aminovaleric acid | 1.17 g | NCCCCC(=O)O | C5H11NO2
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | tetrahydrofuran | 12 cm3 | O1CCCC1 | C4H8O
solvent | water | 12 cm3 | O | H2O
product | 5-(4-Diethylaminobenzenesulphonyl)valeric acid | 2.2 g | C(C)N(C1=CC=C(C=C1)S(=O)(=O)CCCCC(=O)O)CC | C15H23NO4S
